US07109339B2
2-Methylsulfanyl-phenylamine (23.6 g, 169.5 mmol) was suspended in conc. HCl (200 mL) and trifluoroacetic acid (130 mL), and cooled to 0° C. in an ice bath. Sodium nitrite (14.0 g, 203.4 mmol) was dissolved in water (45 mL) and added dropwise to the suspension over 45 min. After the addition, the reaction was stirred at 0° C. for 1 h. In a separate flask, tin(II) chloride (76 g, 338.4 mmol) was dissolved in conc. HCl (100 mL) and added slowly over 15 min to the reaction mixture. The resultant suspension was warmed to rt and stirred for 48 h. The reaction was filtered, washed with iso-propyl alcohol (15 mL), and dried to give 1-(2-methylsulfanyl-phenyl)hydrazine hydrochloride (30 g, 93%). 1H NMR (CD3OD, 300 MHz) δ 7.44 (d, 1H, J=7.7 Hz), 7.32–7.26 (m, 1H), 7.08–7.00 (m, 2H), 2.39 (s, 3H) ppm.

reactant | 2-Methylsulfanyl-phenylamine | 169.5 mmol, 23.6 g | CSC1=C(C=CC=C1)N | C7H9NS
reactant | Sodium nitrite | 203.4 mmol, 14.0 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 338.4 mmol, 76 g | [Sn](Cl)Cl
solvent | HCl | 200 mL | Cl | ClH
solvent | trifluoroacetic acid | 130 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 45 mL | O | H2O
solvent | HCl | 100 mL | Cl | ClH
product | 1-(2-methylsulfanyl-phenyl)hydrazine hydrochloride | 30 g, 93% | Cl.CSC1=C(C=CC=C1)NN | InChI=1S/C7H10N2S.ClH/c1-10-7-5-3-2-4-6(7)9-8;/h2-5,9H,8H2,1H3;1H
